US06211245B1
3,7-Difluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one
A mixture of 2-[2-(4-fluorophenyl)ethyl]-5-fluorobenzoic acid (2.02 g, 7.71 mmol, 1 equiv) and oxalyl chloride (1.37 g, 10.8 mmol, 1.4 equiv) in CH2Cl2 (20 mL) was refluxed for 30 min. The resulting solution was then added to a stirring suspension of aluminum chloride (1.44 g, 10.8 mmol, 1.4 equiv) in CH2Cl2 (50 mL). This mixture was refluxed for 1 h. The reaction mixture was then washed with 1N HCl (3×20 mL), aq. satd. NaCl (1×50 mL), and H2O (1×50 mL). The organic layer was dried (anhyd. Na2SO4) and rotary evaporated to provide 1.6 g of a light-orange-colored semisolid. This material was chromatographed (3:1 hexane/CHCl3) through silica gel (150 mm×25 mm dia.). Evaporation of the combined fractions containing product provided 0.93 g (49%) of the desired product as a light-yellow shiny solid.

reactant | 2-[2-(4-fluorophenyl)ethyl]-5-fluorobenzoic acid | 7.71 mmol, 2.02 g, 1 equiv | FC1=CC=C(C=C1)CCC1=C(C(=O)O)C=C(C=C1)F | C15H12F2O2
reactant | oxalyl chloride | 10.8 mmol, 1.37 g, 1.4 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | aluminum chloride | 10.8 mmol, 1.44 g, 1.4 equiv | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3,7-Difluoro-10,11-dihydro-5H-dibenzo[a,d]cyclohepten-5-one | 1.6 g | FC=1C=CC2=C(C(C3=C(CC2)C=CC(=C3)F)=O)C1 | C15H10F2O
